US07964608B2
1,3-Dicyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (17 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and cyclopentyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 380 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.51 (s, 1H), 7.82 (d, 1H), 7.62 (t, 1H), 7.28 (d, 1H), 5.34 (m, 1H), 4.98 (m, 1H), 4.15 (s, 3H), 3.95 (m, 4H), 2.38 (m, 2H), 2.12 (m, 2H), 1.93-1.98 (m, 2H), 1.58-169 (m, 4H), and 1.38 (m, 2H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | cyclopentyl isocyanate | 0.4 mmol | C1(CCCC1)N=C=O | C6H9NO
product | 1,3-Dicyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 17 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2CCCC2)=O | C22H25N3O3
